US04830470
The crude (S)-4-(6-methyloctyloxy)benzoyl chloride obtained was dissolved in 20 ml of toluene and then added dropwise to a solution of 0.26 g of 4-[2-(trans-4-pentylcyclohexyl)ethyl]phenol in 2 ml of pyridine. The reaction mixture was stirred at room temperature overnight, then poured into ice-water and extracted with diethyl ether. The extract was washed four times with 25 ml of 1N hydrochloric acid each time, then washed with 25 ml of 2N sodium carbonate solution and several times with water, dried over magnesium sulphate and concentrated. Chromatography of the residual oil on silica gel with toluene gave 0.2 g of (S)-4-(6-methyloctyloxy)benzoic acid 4-[2-(trans-4-pentylcyclohexyl)ethyl]phenyl ester. The product was recrystallized several times from ethanol until the phase transition temperatures were constant. M.p. (C-S) 58°, transition S-S*C 58.5° C., transition S*C -Ch 93° C., cl.p. (CH-I) 140° C.

reactant | (S)-4-(6-methyloctyloxy)benzoyl chloride | C[C@H](CCCCCOC1=CC=C(C(=O)Cl)C=C1)CC | C16H23ClO2
reactant | 4-[2-(trans-4-pentylcyclohexyl)ethyl]phenol | 0.26 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)O | C19H30O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (S)-4-(6-methyloctyloxy)benzoic acid 4-[2-(trans-4-pentylcyclohexyl)ethyl]phenyl ester | 0.2 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)OC(C1=CC=C(C=C1)OCCCCC[C@H](CC)C)=O | C35H52O3
